US07629294B2
112.5 ml (116 g, 2.312 mol) of hydrazine hydrate were added slowly to a solution of 90 g (0.489 mol) of methyl(3-methylthiophen-2-yl)oxoacetate in 260 ml of diethylene glycol, and the mixture was heated under reflux for 30 min. After cooling to 3040° C., 82 g (1.246 mol) of potassium hydroxide were added a little at a time, which was accompanied by a temperature increase to 70-80° C. with simultaneous evolution of nitrogen. The mixture was then slowly heated to reflux and stirred at this temperature for a total of 5 h. After cooling to room temperature, the mixture was poured into 2 l of water, adjusted to pH=1 using 250 ml of semi-concentrated hydrochloric acid and extracted with ethyl acetate. The organic phase was dried over magnesium sulphate and filtered off and the solvent was removed, which gave 50 g of (3-methylthiophen-2-yl)acetic acid. Yield: 66%. 1H-NMR (DMSO): δ=7.25 (d, 1H), 6.84 (d, 2H), 3.67 (s, 2H), 2.11 (s, 3H).

reactant | hydrazine hydrate | 2.312 mol, 112.5 ml, 116 g | O.NN
reactant | methyl(3-methylthiophen-2-yl)oxoacetate | 0.489 mol, 90 g | COC(C(=O)C=1SC=CC1C)=O | C8H8O3S
reactant | potassium hydroxide | 1.246 mol, 82 g | [OH-].[K+]
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | diethylene glycol | 260 ml | C(COCCO)O | C4H10O3
solvent | water | 2 l | O | H2O
product | (3-methylthiophen-2-yl)acetic acid | 50 g, Yield: 66% | CC1=C(SC=C1)CC(=O)O | C7H8O2S
